US06600045B2
(2R, 4S)-2-Ethyl-4-methoxycarbonylamino-6-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic Acid Ethyl Ester
A clean, dry and nitrogen gas purged 100 L glass tank was charged with (2R, 4S)-(2-ethyl-6-trifluoromethyl-1,2,3,4-tetrahydro-quinolin-4-yl)-carbamic acid methyl ester (5191 g, 17.17 mol), methylene chloride (21 L), and pyridine (4.16 L, 51.4 mol). The reaction vessel was cooled to −10° C. Ethyl chloroformate (4.10 L, 42.9 mol) was slowly added at such a rate that the internal temperature did not exceed −5° C. The reaction solution was brought to 0° C. and held for 20 hours. The reaction was quenched by adding to a mixture of diisopropyl ether (IPE) (36 L), methylene chloride (6.2 L) and 1.5M hydrochloric acid solution (52 L). The resulting phases were separated and the organic layer was extracted with 1 M sodium hydroxide solution (15 L). The resulting phases were separated and the organic layer was washed with saturated aqueous sodium chloride NaCl (15 L). The resulting phases were separated and the organic layer was concentrated by distillation to a volume of 40 L. Crystallization initiated at lower volume. The methylene chloride was displaced with IPE by distilling the mixture and periodically adding IPE to maintain a constant volume at 40L until a temperature of 68° C. was maintained (46 L total IPE used). The mixture was cooled and allowed to granulate with stirring at room temperature for 19 hours. The solids were filtered, rinsed with IPE (8 L), and dried under vacuum at 40° C. to afford 5668 g of the title compound (88%).

reactant | (2R, 4S)-(2-ethyl-6-trifluoromethyl-1,2,3,4-tetrahydro-quinolin-4-yl)-carbamic acid methyl ester | 17.17 mol, 5191 g | COC(N[C@H]1C[C@H](NC2=CC=C(C=C12)C(F)(F)F)CC)=O | C14H17F3N2O2
reactant | pyridine | 51.4 mol, 4.16 L | N1=CC=CC=C1 | C5H5N
reactant | Ethyl chloroformate | 42.9 mol, 4.10 L | ClC(=O)OCC | C3H5ClO2
solvent | methylene chloride | 21 L | C(Cl)Cl | CH2Cl2
product | (2R, 4S)-2-Ethyl-4-methoxycarbonylamino-6-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic Acid Ethyl Ester | 5668 g, 88% | C(C)OC(=O)N1[C@@H](C[C@@H](C2=CC(=CC=C12)C(F)(F)F)NC(=O)OC)CC | C17H21F3N2O4
